US05081131
4-Dimethylamino-N-(3-(3-pyridinyl)propyl)benz(cd)indol-2-amine
The reaction of equivalent molar quantities of 3-(3-pyridinyl)propanamine, 4-dimethylaminobenz(cd)indol-2thiol, and mercuric acetate in refluxing ethanol, under the conditions of Example 55 leads to the formation of the title compound.

reactant | 3-(3-pyridinyl)propanamine | N1=CC(=CC=C1)CCCN | C8H12N2
reactant | 4-dimethylaminobenz(cd)indol-2thiol | CN(C=1C=C2C3=C(C(=NC3=CC=C2)S)C1)C | C13H12N2S
solvent | ethanol | C(C)O | C2H6O
product | 4-Dimethylamino-N-(3-(3-pyridinyl)propyl)benz(cd)indol-2-amine | CN(C=1C=C2C3=C(C(=NC3=CC=C2)NCCCC=2C=NC=CC2)C1)C | C21H22N4
